US04779961
4-[N-(2-Hydroxyethyl)piperazinyl]-4'-nitrostilbene
A one liter three necked flask fitted with a dropping funnel, mechanical stirrer, and condenser is charged with 34.35 g of 4-nitrophenylacetic acid. Piperidine (16.2 g) is added dropwise over a period of 30 minutes. At the end of the addition period, 44.46 g of 4-[N-(2-hydroxyethyl)piperazinyl]benzaldehyde is added. The mixture is heated at 100° C. for three hours, and at 130° C. for three hours. After cooling, the resultant semi-solid mass is ground up in ethanol in a blender, then filtered, washed with water, and vacuum dried. The crude solid is recrystallized from chlorobenzene: m.p. 221°-224° C.

reactant | 4-nitrophenylacetic acid | 34.35 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | Piperidine | 16.2 g | N1CCCCC1 | C5H11N
reactant | 4-[N-(2-hydroxyethyl)piperazinyl]benzaldehyde | 44.46 g | OCCN1C(CNCC1)C1=CC=C(C=O)C=C1 | C13H18N2O2
solvent | ethanol | C(C)O | C2H6O
product | 4-[N-(2-Hydroxyethyl)piperazinyl]-4'-nitrostilbene | OCCN1C(CNCC1)C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C20H23N3O3
